US04751245
To 5.24 g (26.0 mmol) of an approximately 3:1 mixture of the E and Z isomers of 1-bromo-6,6-dimethyl-2-hepten-4-yne was added sodium carbonate (5.52 g, 52.0 mmol) 80 ml of acetone and 170 ml of water. This mixture was heated to reflux for 3 hours. After cooling, most of the acetone was removed in vacuo and the mixture was extracted with ethyl ether three times. The combined ether layer was dried with sodium sulfate and concentrated to afford 3.97 of 6,6-dimethyl-2-hepten-4-yn-1-ol.

reactant | 1-bromo-6,6-dimethyl-2-hepten-4-yne | BrCC=CC#CC(C)(C)C | C9H13Br
reactant | sodium carbonate | 52.0 mmol, 80 ml, 5.52 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 170 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 6,6-dimethyl-2-hepten-4-yn-1-ol | CC(C#CC=CCO)(C)C | C9H14O
